US09145380B2
2-(2-Phenylpropylsulfonylamino)benzenesulfonamide
A mixture of 2-[[(E)-2-(4-chlorophenyl)prop-1-enyl]sulfonylamino]benzenesulfonamide and 2-[2-(4-chlorophenyl)prop-2-enylsulfonylamino]benzenesulfonamide (40 mg, 0.11 mmol) was dissolved in methanol (3 ml) and subjected to the H-cube (1 ml/min, full hydrogen. 10% Pd/C, 2 runs). The product obtained was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (13 mg, 32%) as a white solid.

reactant | 2-[[(E)-2-(4-chlorophenyl)prop-1-enyl]sulfonylamino]benzenesulfonamide | ClC1=CC=C(C=C1)/C(=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)/C | C15H15ClN2O4S2
reactant | 2-[2-(4-chlorophenyl)prop-2-enylsulfonylamino]benzenesulfonamide | 0.11 mmol, 40 mg | ClC1=CC=C(C=C1)C(CS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)=C | C15H15ClN2O4S2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(2-Phenylpropylsulfonylamino)benzenesulfonamide | 13 mg, 32% | C1(=CC=CC=C1)C(CS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)C | C15H18N2O4S2
